US05693636
a) t-butyl 3-methyl-4-nitro-benzoate
Benzenesulfonyl chloride (12.8 mL, 100 mmol) was added rapidly to a solution of 3-methyl-4-nitrobenzoic acid (9.06 g, 50 mmole) in dry pyridine (25 mL) at 40° C. The reaction was mildly exothermic. The cloudy, orange solution was stirred for 5 min, then t-butanol (4.7 mL, 50 mmole, 1 eq.) was added. After 1 h, the reddish-orange mixture was poured into ice/water (200 mL), and the resulting mixture was stirred briskly for 1 h. The solid was collected by suction filtration, washed with H2O, and dissolved in toluene (200 mL). The solution was dried (MgSO4) and filtered through a pad of silica gel eluting with toluene. Concentration gave the title compound as a yellow oil which crystallized under vacuum (9.67 g, 82%). TLC Rf 0.65 (4:1 toluene:hexane); 1H NMR (250 MHz, CDCl3) δ7.85-8.10 (m, 3H), 2.61 (s, 3H), 1.60 (s, 9H); IR (CCl4) 1724, 1531, 1372, 1308, 1295, 1164, 1120, 843 cm-1 ; MS(ES) m/e 260.0 [M+Na]+, 238.0 [M+H]+.

reactant | Benzenesulfonyl chloride | 100 mmol, 12.8 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 3-methyl-4-nitrobenzoic acid | 50 mmole, 9.06 g | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
reactant | t-butanol | 50 mmole, 4.7 mL, 1 eq. | C(C)(C)(C)O | C4H10O
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | t-butyl 3-methyl-4-nitro-benzoate | CC=1C=C(C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C12H15NO4
